US07786165B2
3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(propyl)amino]methyl}benzyl)amino]phenyl}propanoic acid dihydrochloride
4 N Hydrogen chloride/ethyl acetate solution (1.25 mL) was added to a solution of 3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(propyl)amino]methyl}benzyl)amino]phenyl}propanoic acid (0.496 g, 1.02 mmol) in ethyl acetate (3.75 mL), and the resulting solid was pulverized and washed with ethyl acetate-diethyl ether to give the title compound as pale-yellow crystals (0.558 g, yield 98%).

reactant | Hydrogen chloride ethyl acetate | 4 N, 1.25 mL | Cl.C(C)(=O)OCC
reactant | 3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(propyl)amino]methyl}benzyl)amino]phenyl}propanoic acid | 1.02 mmol, 0.496 g | C1(=CC=CC=C1)C=1N=C(SC1)N(CCC)CC1=CC=C(CNC2=CC=C(C=C2)CCC(=O)O)C=C1 | C29H31N3O2S
solvent | ethyl acetate | 3.75 mL | C(C)(=O)OCC | C4H8O2
product | 3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(propyl)amino]methyl}benzyl)amino]phenyl}propanoic acid dihydrochloride | 0.558 g, yield 98% | Cl.Cl.C1(=CC=CC=C1)C=1N=C(SC1)N(CCC)CC1=CC=C(CNC2=CC=C(C=C2)CCC(=O)O)C=C1 | InChI=1S/C29H31N3O2S.2ClH/c1-2-18-32(29-31-27(21-35-29)25-6-4-3-5-7-25)20-24-10-8-23(9-11-24)19-30-26-15-12-22(13-16-26)14-17-28(33)34;;/h3-13,15-16,21,30H,2,14,17-20H2,1H3,(H,33,34);2*1H
